US03956374
Step C: 4-Benzyl-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid
Triton B (2 ml., 40% in MeOH) is added to a stirred solution of 1-(p-chlorophenyl)-4,5-diphenyl-1-penten-3-one (17.33 g., 0.05 mole) in glyme (200 ml.) followed by addition of methyl acrylate (4.73 g., 0.055 mole) in glyme (50 ml.). The solution is stirred for 96 hours and the solvent is removed under reduces pressure. The residue is dissolved in methanol (500 ml.) and a 20% sodium hydroxide solution (25 ml.) is added. After an additional 24 hours, the methanol is evaporated in vacuo and the residue is dissolved in water. Extraction with ether removes unreacted ketone. Acidification produces 16.18 g., m.p. 160°-170°C. when collected and air-dried. Recrystallization from butyl chloride gives material with m.p. 173°-176°C.

reactant | 1-(p-chlorophenyl)-4,5-diphenyl-1-penten-3-one | 0.05 mole, 17.33 g | ClC1=CC=C(C=C1)C=CC(C(CC1=CC=CC=C1)C1=CC=CC=C1)=O | C23H19ClO
reactant | methyl acrylate | 0.055 mole, 4.73 g | C(C=C)(=O)OC | C4H6O2
solvent | MeOH | CO | CH4O
solvent | glyme | 200 ml | C(OC)COC | C4H10O2
solvent | glyme | 50 ml | C(OC)COC | C4H10O2
product | 4-Benzyl-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid | C(C1=CC=CC=C1)C(CCC(=O)O)(C(C=CC1=CC=C(C=C1)Cl)=O)C1=CC=CC=C1 | C26H23ClO3
